US07423158B2
Preparation of 2-Amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(4-hydroxybutyl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one
A mixture of a solution of 2-amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(4-hydroxybut-1-yn-1-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one (0.26 g, 0.65 mmol) in ethanol and 5% palladium on charcoal (26 mg) was placed on a Paar hydrogenator at 40 psi hydrogen for 8 hrs. The reaction mixture was filtered through a celite pad. The filtrate was concentrated in vacuo. The resultant residue was purified by flash chromatography on silica gel, 5% methanol/ ethyl acetate as eluent, to give the title product as a white solid, 0.16 g (61% yield), mp 63-66° C.; 1H NMR (DMSO-d6) δ 1.4 ((2H, 2H); 1.5 (m, 1 H); 2.5 (2H, under DMSO peak) 2.95 (s, 3 H); 3.3 (q, 2 H); 4.3 (t, 1 H); 6.6 (b, 2H); 7.1 (m, 3H); 7.15 (t, 2F); 7.2 (m, 3 H); 7.4 (d, 2 H); MS [(+)ESI] m/z=404 [M−H]+.

reactant | 2-amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(4-hydroxybut-1-yn-1-yl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 0.65 mmol, 0.26 g | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)C#CCCO)C1=CC=C(C=C1)OC(F)F | C21H19F2N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on charcoal | 26 mg | [Pd] | Pd
product | 2-Amino-5-[4-(difluoromethoxy)phenyl]-5-[3-(4-hydroxybutyl)phenyl]-3-methyl-3,5-dihydro-4H-imidazol-4-one | 61% yield | NC1=NC(C(N1C)=O)(C1=CC(=CC=C1)CCCCO)C1=CC=C(C=C1)OC(F)F | C21H23F2N3O3
